US07816557B2
3-{4-[5,5,5-trifluoro-1-(4′-isopropyl-2,6-dimethyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid, Isomer 2
The title compounds are prepared in a manner substantially similar to Example 128 starting from 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester and 4-isopropyl phenyl boronic acid. Isomer 1 MS: 554.2 [M−H]−; Isomer 2 MS: 554.2 [M−H]−.

reactant | 3-{4-[1-(4-bromo-3,5-dimethyl-phenoxy)-5,5,5-trifluoro-pentyl]-benzoylamino}-propionic acid methyl ester | COC(CCNC(C1=CC=C(C=C1)C(CCCC(F)(F)F)OC1=CC(=C(C(=C1)C)Br)C)=O)=O | C24H27BrF3NO4
reactant | 4-isopropyl phenyl boronic acid | C(C)(C)C1=CC=C(C=C1)B(O)O | C9H13BO2
product | 3-{4-[5,5,5-trifluoro-1-(4′-isopropyl-2,6-dimethyl-biphenyl-4-yloxy)-pentyl]-benzoylamino}-propionic acid | FC(CCCC(OC1=CC(=C(C(=C1)C)C1=CC=C(C=C1)C(C)C)C)C1=CC=C(C(=O)NCCC(=O)O)C=C1)(F)F | C32H36F3NO4
